US05868961
3.6 g (20 mmol) of 1-bromo-n-heptane was dropped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of tetrahydrofuran (THF) to obtain Grignard reagent. This solution was then added to a mixture of 2.8 g of zinc chloride and 20 ml of THF to obtain the organozinc reagent. This solution was then dropped into a 50 ml THF solution of 4.7 g (20 mmol) of 4-(4-chloro -4-silacyclohexyl) benzonitrile to obtain 4-(4-n-heptyl -4-silacyclohexyl) benzonitrile.

reactant | 4-(4-chloro -4-silacyclohexyl) benzonitrile | 20 mmol, 4.7 g | Cl[SiH]1CCC(CC1)C1=CC=C(C#N)C=C1 | C12H14ClNSi
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | 4-(4-n-heptyl -4-silacyclohexyl) benzonitrile | yield 92% | C(CCCCCC)[SiH]1CCC(CC1)C1=CC=C(C#N)C=C1 | C19H29NSi
